US04898951
Crude N-(3-aminopropyl)-N'-(4-azido-2-nitrophenyl)-N-methyl-1,3-propane diamine (300 mg, approx. 1 mmol) was dissolved with stirring at room temp. in 70% pyridine-water (5 ml). A solution of 1-fluoro-2,4-dinitrobenzene (110 mg, 1 mmol) in 70% pyridine water (5 ml) was added in one portion with stirring. An orange red precipitate began to form at once and the reaction mix was stirred at room temp. overnight. The mixture was then concentrated on a rotary evaporator to an oil which was dissolved in CH2Cl2 (20 ml), washed with 1M NaOH (20 ml), dried over Na2SO4 and again concentrated on a rotary evaporator to give an oily solid. Last traces of solvent were removed by evacuation with an oil pump at room temp. to give photo-DNP as an orange-red powder. Yield was 294 mg. M.p. 90°-95° C. TLC on alumina with dichloroethane was solvent showed the product to be a single spot with Rf 0.6; under these conditions, the starting amine remained at the origin.

reactant | N-(3-aminopropyl)-N'-(4-azido-2-nitrophenyl)-N-methyl-1,3-propane diamine | approx. 1 mmol, 300 mg | NCCCN(CCCNC1=C(C=C(C=C1)N=[N+]=[N-])[N+](=O)[O-])C | C13H21N7O2
reactant | 1-fluoro-2,4-dinitrobenzene | 1 mmol, 110 mg | FC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3FN2O4
reactant | pyridine water | 5 ml | N1=CC=CC=C1.O
reactant | pyridine water | 5 ml | O.N1=CC=CC=C1
product | photo-DNP | C1=CC(=C(C=C1N=[N+]=[N-])[N+](=O)[O-])NCCCCCC(=O)NCCCCCCNC2=C(C=C(C=C2)[N+](=O)[O-])[N+](=O)[O-] | C24H31N9O7
